US05360907
Crude 2-chloromethyl-4-azaindole monohydrochloride (3.0 g, approximately 14.8 mmol) is added to a 25% solution of sodium methoxide in methanol (16.8 ml) and the reaction is refluxed with stirring for 8 hours under an argon atmosphere. The reaction is concentrated and the residue is chromatographed on silica gel using mixtures of CH2Cl2, MeOH, and NH4OH as eluents to give pure 2-methoxymethyl-4-azaindole.

reactant | 2-chloromethyl-4-azaindole monohydrochloride | approximately 14.8 mmol, 3.0 g | Cl.ClCC=1NC2=CC=CN=C2C1
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 16.8 ml | CO | CH4O
product | 2-methoxymethyl-4-azaindole | COCC=1NC2=CC=CN=C2C1 | C9H10N2O
